US05698575
Example 7: Preparation of 2-indolylchromone
To an eggplant type flask (25 ml), 3-iodochromone (136 prepared in Example 1, indole (234 mg), potassium carbonate (1382 mg), and dimethylformamide (15 mg) were added and the mixture was reacted at 80° C. for 30 hours with stirring. The reaction mixture was added to ice water and extracted with chloroform. The organic layer was dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purifiedby the silica gel column ghromatography, and the purified product was recrystallized from benzene/hexane to give the titled compound (42.3 mg; yield=32.2%) as crystals. Melting point: 157°-158° C. 1H-NMR(CDCl3, δ ppm): 6.46 (s, H3), 8.26 (dd, H5), 7.47 (t, H6), 7.72 (t, H7), 7.58 (d, H8), 7.55 (d, H2'), 6.80 (d, H3'), 7.66 (d, H4'), 7.28-7.42 (m, H5'), 7.28-7.42 (m, H6'), 7.99 (m, H7').

reactant | 3-iodochromone | IC1=COC2=CC=CC=C2C1=O | C9H5IO2
reactant | indole | 234 mg | N1C=CC2=CC=CC=C12 | C8H7N
reactant | potassium carbonate | 1382 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 15 mg | CN(C=O)C | C3H7NO
product | 2-indolylchromone | 42.3 mg, yield=32.2% | N1C(=CC2=CC=CC=C12)C=1OC2=CC=CC=C2C(C1)=O | C17H11NO2
